US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-(2-oxo-2-pyrrolidin-1-ylethyl)pyrimidine-2,4-diamine
(4-{[5-Nitro-2-(2-oxo-2-pyrrolidin-1-yl-ethylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester (19 mg, 0.04 mmol) was dissolved in CH2Cl2 (5 mL) and TFA (1 mL) was added. The reaction mixture was stirred at room temperature for 1 h. The solution was treated with saturated NaHCO3 and the organic phase was separated. The aqueous phase was extracted with CH2Cl2 and the combined organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 10:1:0.3 CH2Cl2:MeOH:Et3N as an eluant to afford 13 mg of the title compound as a light yellow solid (83%), m/z 376.3 [M−1]+.

reactant | (4-{[5-Nitro-2-(2-oxo-2-pyrrolidin-1-yl-ethylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 0.04 mmol, 19 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC(N1CCCC1)=O)=O | C22H35N7O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-(2-oxo-2-pyrrolidin-1-ylethyl)pyrimidine-2,4-diamine | 13 mg, 83% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC(N1CCCC1)=O | C17H27N7O3
